US06387911B1
2-(2,2,2-Trifluoroethoxy)-5-chlorobenzyl alcohol
Sodium borohydride (200 mg, 5.3 mmol) was added to a solution of 2-(2,2,2-trifluoroethoxy)-5-chlorobenzaldehyde (2 g, 8.4 mmol) in ethanol at room temperature. After stirring for 1 hr, the solvent was removed under reduced pressure. Aqueous ammonium chloride was added to the residue to destroy excess hydride following which the mixture was extracted with ethyl acetate. The organic extracts were washed with brine and then dried over sodium sulfate. Concentration yielded the title compound as an oil: 1H NMR (CDCl3) δ7.41 (d, J=2.4 Hz, 1H), 7.25 (m, 1H), 6.77 (d, J=8.8 Hz, 1H), 4.73 (d, J=4.6 Hz, 2H), 4.40 (m, 2H).

reactant | Sodium borohydride | 5.3 mmol, 200 mg | [BH4-].[Na+]
reactant | 2-(2,2,2-trifluoroethoxy)-5-chlorobenzaldehyde | 8.4 mmol, 2 g | FC(COC1=C(C=O)C=C(C=C1)Cl)(F)F | C9H6ClF3O2
solvent | ethanol | C(C)O | C2H6O
product | 2-(2,2,2-Trifluoroethoxy)-5-chlorobenzyl alcohol | FC(COC1=C(CO)C=C(C=C1)Cl)(F)F | C9H8ClF3O2
